US04435417
3-butyl-2-(4-methoxyphenyl)-3H-naphtho[1,2-d]imidazole
The compound of the title is prepared by following essentially the same procedure described in example 2 but starting from 2-butylamino-1-nitrosonaphthalene instead of 2-methylamino-1-nitrosonaphthalene and employing 4-methoxybenzaldehyde instead of 4-ethoxybenzaldehyde. Yield 53%. M.p. 99,5°-100,5° C.

reactant | 2-butylamino-1-nitrosonaphthalene | C(CCC)NC1=C(C2=CC=CC=C2C=C1)N=O | C14H16N2O
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
product | 3-butyl-2-(4-methoxyphenyl)-3H-naphtho[1,2-d]imidazole | Yield 53% | C(CCC)N1C(=NC2=C1C=CC1=CC=CC=C12)C1=CC=C(C=C1)OC | C22H22N2O
